US08377911B2
Step A: {(2S)-1-[(Z)-1-butoxy-NNO-azoxy]pyrrolidin-2-yl}methanol
To a suspension of sodium (2S)-2-(hydroxymethyl)-1-[(Z)-oxido-NNO-azoxy]pyrrolidine (447 mg, 2.44 mmol) and tetrabutylammonium iodide (90 mg, 0.24 mmol) in DMF (10 mL) was added 1-bromobutane (315 μL, 2.93 mmol). The resulting suspension was allowed to stir at 65° C. over night. After cooling to rt, the mixture was partitioned between Et2O (50 mL) and brine (50 mL). The organic layer was separated and washed with brine (2×50 mL), dried over MgSO4 and concentrated. The residue was purified by flash chromatography (Biotage 40+M) using 35-50% ethyl acetate in hexanes gradient, affording the title product: 1H NMR (500 MHz, CDCl3) δ 4.21 (t, J=6.7 Hz, 2H), 4.07-4.02 (m, 1H), 3.75 (dd, J=3.6, 11.3 Hz, 1H), 3.63-3.54 (m, 3H), 3.06 (br. s, 1H), 2.12-2.04 (m, 1H), 1.98-1.91 (m, 2H), 1.81-1.71 (m, 3H), 1.47-1.39 (m, 2H), 0.95 (t, J=7.4 Hz, 3H).

reactant | sodium (2S)-2-(hydroxymethyl)-1-[(Z)-oxido-NNO-azoxy]pyrrolidine | 2.44 mmol, 447 mg | OC[C@H]1N(CCC1)/[N+](=N/[O-])/[O-].[Na+]
reactant | 1-bromobutane | 2.93 mmol, 315 μL | BrCCCC | C4H9Br
catalyst | tetrabutylammonium iodide | 0.24 mmol, 90 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | {(2S)-1-[(Z)-1-butoxy-NNO-azoxy]pyrrolidin-2-yl}methanol | C(CCC)O\N=[N+](/[O-])\N1[C@@H](CCC1)CO | C9H19N3O3
